Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][O:2],2.71645693017
[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.74597428377
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-8.05483825093
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-1.91680880463
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.90497550567
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:7]([H:8])[H:9].[H:6],4.87557252061
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.32030526508
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.75248920922
[C:5]([H:6])[H:7].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[H:7],-7.001366898089999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],4.30373025957
[H:1][C:2]=[C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.22115764161
[H:11].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.68249645886
[H:1].[O:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.2999553929100003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.93921556504
[C:1]#[C:2][O:3][C:4]#[C:6][H:7].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7],-2.58332064311
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.71749210622
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.83061650061
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.83429854186
[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[H:7],-1.10881088214
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],4.5700726322500005
[H:1][O:2][C:3]1=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]1[H:11]>>[H:1][O:2][C:3]([C:4][O:5][H:6])[C:10](=[C:7]([H:8])[H:9])[H:11],0.66276647507
[C:1][C:2][O:3].[C:4][O:5][H:6]>>[C:1]#[C:2][O:3][C:4][O:5][H:6],-1.1512846020899998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],0.577878275811
[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],-0.8534112567899999
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],3.37388235343
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.3711018634299998
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-0.8480004404800001
[H:1][C:2]=[C:3]([H:4])[O:6][O:7][C:8]([H:9])=[C:10][H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11],-1.6973821651899998
[C:1]#[C:2][C:3](=[O:4])[C:7]([H:8])([H:9])[H:10].[C:5][H:6]>>[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.74471913165
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-1.32395984918
[O:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],1.52102616196
